US07041696B2
Preparation of 5-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (1):
To a solution of 5-oxo-pyrrolidine-2-carboxylic acid methyl ester (5.0 g, 35 mmol), 4-dimethylaminopyridine (0.43 g, 3.5 mmol), and triethylamine (12 mL, 8.8 g, 88 mmol) in CH2Cl2 (100 mL), di-t-butyldicarbonate (15.2 g, 70 mmol) is added. After the consumption of the starting material, the reaction is washed with H2O (2×100 mL), and brine (1×100 mL). The CH2Cl2 is reduced under in vacuo. The residue is purfied over silica (hexanes/ethyl acetate 60:40) to afford 7.95 g of the desired product as a light yellow oil (94% yield). 1H-NMR (300 MHz, CDCl3): δ 4.67–4.63 (dd, J=9.6, 3.3, 1H), 3.82 (s, 3H), 2.73–2.29 (m, 3H), 2.12–2.02 (m, 1H); MS (ESI): m/e=244.06 (M+H).

reactant | 5-oxo-pyrrolidine-2-carboxylic acid methyl ester | 35 mmol, 5.0 g | COC(=O)C1NC(CC1)=O | C6H9NO3
reactant | triethylamine | 88 mmol, 12 mL, 8.8 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 70 mmol, 15.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 3.5 mmol, 0.43 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 7.95 g, 94% yield | COC(=O)C1N(C(CC1)=O)C(=O)OC(C)(C)C | C11H17NO5
